US06599860B1
3-[2-Methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl-sulfonylbenzoyl]bicyclo[3.2.1]octane-2,4-dione (Compound 2.2)
Under nitrogen and at 0-5° C., 0.7 g (2 mmol) of 2-methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl-sulfonylbenzoyl chloride in 40 ml of acetonitrile was added dropwise to 0.28 g (2 mmol) of bicyclo[3.2.1]octane-2,4-dione and 0.4 g (4 mmol) of triethylamine in 40 ml of acetonitrile, and the mixture was stirred at room temperature for 4 hours. 1 drop of trimethylsilyl cyanide and 0.05 g of potassium carbonate were then added, and the mixture was stirred at 40° C. for 2 hours and then at room temperature for 12 hours. Following this, the solvent was removed, the residue was taken up in ethyl acetate and the solution was extracted repeatedly with 5% strength potassium carbonate solution. The combined extracts were then adjusted to pH 2-3 using 10% strength hydrochloric acid and extracted repeatedly with methylene chloride. These combined organic extracts were then washed with water and dried, and the solvent was removed. The oily yellow residue was chromatographed over silica gel (mobile phase: methylene chloride/methanol=99/1 to 97/3). This gave 0.4 g (44% of theory) of the title compound of melting point 98-103° C.

reactant | 2-methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl-sulfonylbenzoyl chloride | 2 mmol, 0.7 g | CC=1C(C(=O)Cl)=CC(C(C1C1=NOC(C1)CCl)C)=S(=O)=O | C13H13Cl2NO4S
reactant | bicyclo[3.2.1]octane-2,4-dione | 2 mmol, 0.28 g | C12C(CC(C(CC1)C2)=O)=O | C8H10O2
reactant | triethylamine | 4 mmol, 0.4 g | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 0.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | trimethylsilyl cyanide | 1 drop | C[Si](C)(C)C#N | C4H9NSi
product | 3-[2-Methyl-3-(5-chloromethyl-4,5-dihydroisoxazol-3-yl)-4-methyl-sulfonylbenzoyl]bicyclo[3.2.1]octane-2,4-dione | CC=1C(C(=O)C2C(C3CCC(C2=O)C3)=O)=CC(C(C1C1=NOC(C1)CCl)C)=S(=O)=O | C21H22ClNO6S
